US05308869
N,N'-Bis(2-ethylphenyl)acetamidine
Following the procedure for Taylor and Ehrhart ((Taylor, E. C. et al., J. Org. Chem. 28:1108 (1963)), a stirred solution, under Nb 2, of 2-ethylaniline (2.14 g, 17.7 mmol), triethyl orthoacetate (1.37 g, 8.5 mmol) and glacial acetic acid (0.45 ml, 7.9 mmol) was refluxed at 95°-110° for 2.5 hours. The resulting clear light brown solution was heated (oil bath temperature was 195° C.) under vacuum (30 Mm Hg) and the volatile materials were recovered through a short distillation head. The brown oil residue was dissolved in 10 ml of diethyl ether then extracted with 10 ml of 0.6N sodium carbonate. The layers were separated and the aqueous layer was extracted with 2×10 ml of diethyl ether. The combined organic layers were dried (Na2SO4) and the solvent removed at reduced pressure to give 1.15 g of light brown solid. Distillation (bulb to bulb, 190°-200°/0.5 Mm) gave 1.13 g of light brown oil that solidified on standing. Crystallization from 20 ml of boiling petroleum ether gave 595 mg of white crystals, Mp 80°-82° C. Recrystallization of 421 mg from 2 ml of boiling petroleum ether gave 380 mg of white granular crystals Mp 80°-81.5° C.

reactant | 2-ethylaniline | 17.7 mmol, 2.14 g | C(C)C1=C(N)C=CC=C1 | C8H11N
reactant | triethyl orthoacetate | 8.5 mmol, 1.37 g | C(C)(OCC)(OCC)OCC | C8H18O3
reactant | acetic acid | 7.9 mmol, 0.45 ml | C(C)(=O)O | C2H4O2
product | N,N'-Bis(2-ethylphenyl)acetamidine | 1.13 g | C(C)C1=C(C=CC=C1)NC(C)=NC1=C(C=CC=C1)CC | C18H22N2
